US04518609
1-(5-Carbethoxy-2-furanyl)-2-methyl-1-propene
To a suspension of 24.2 g (0.056 mol) of isopropyltriphenylphosphonium iodide in 300 mL of THF at -20° C. was added 37.3 mL of a 1.5M solution of n-BuLi (0.056 mol) in hexane over a 20-min period. The dark brown solution was warmed to 0° C. and maintained at this temperature for 30 min, when almost all of the solid phosphonium salt had disappeared. A solution of 9.42 g (0.056 mol) of 2-carbethoxy-5-furaldehyde in 20 mL of THF was added over a period of 10 min. The resulting clear yellow solution was stirred at room temperature for 20 h and at 50°-60° C. for 1 h. The mixture was diluted with 500 mL of brine and 300 mL of Et2O. The organic layer was washed twice with 300 mL of brine, dried (Na2SO4), and evaporated to afford 11.0 g of the crude product, which was purified on 150 g of SiO2 (12.5% Et2O/hexane) to give 9.0 g of the pure product as a very pale yellow oil: IR (film) 2990, 2950, 1720, 1670, 1590, 1510, 1460, 1380, 1350, 1320, 1270, 1230, 1190, 1160, 1140, 1030, 980, 850, 800, 760 cm-1 ; 1H NMR (CDCl3) δ1.25 (t, J=7 Hz, 3, CO2CH2CH3), 6.05 (s, 1, C=CH), 6.17 (d, J=4 Hz, 1, 3'H), 7.07 (d, J=4 Hz, 1, 4'H); MS calcd for C11H14O3 194.0943, found 194.0946.

reactant | isopropyltriphenylphosphonium iodide | 0.056 mol, 24.2 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 0.056 mol | [Li]CCCC
reactant | phosphonium | [PH4+]
reactant | 2-carbethoxy-5-furaldehyde | 0.056 mol, 9.42 g | C(=O)(OCC)C=1OC(=CC1)C=O | C8H8O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | 500 mL | [Cl-].[Na+].O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 1-(5-Carbethoxy-2-furanyl)-2-methyl-1-propene | 9.0 g | C(=O)(OCC)C1=CC=C(O1)C=C(C)C | C11H14O3
